US05731452
Using as the material and reagent a hydrogen fluoride-pyridine solution (0.2 ml) and (11R,12S,13E,15S)-9-butyryloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienamide (169 mg), the same procedure was followed as in Example 2 to obtain (11R,12S,13E,15S)-9-butyryloxy-11,15-dihydroxy-7-thiaprosta-8,13-dienamide (101 mg, 91%).

reactant | hydrogen fluoride-pyridine | 0.2 ml | N1=CC=CC=C1.F
reactant | (11R,12S,13E,15S)-9-butyryloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienamide | 169 mg | C(CCC)(=O)OC1=C(SCCCCCC(=O)N)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](CCCCC)O[Si](C)(C)C(C)(C)C | C35H67NO5SSi2
product | (11R,12S,13E,15S)-9-butyryloxy-11,15-dihydroxy-7-thiaprosta-8,13-dienamide | 101 mg, 91% | C(CCC)(=O)OC1=C(SCCCCCC(=O)N)[C@H]([C@@H](C1)O)\C=C\[C@H](CCCCC)O | C23H39NO5S
